US08912188B2
To a solution of methyl 3-(cyclopropyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (300 mg, crude) in dioxane (10 mL), 1H-indazol-5-ylboronic acid (430 mg, 1.76 mmol), K3PO4 (370 mg, 1.76 mmol), and Pd(PPh3)4 (51 mg, 0.04 mmol). The resulting solution was stirred for 1 h at 90° C. The resulting mixture was concentrated under vacuum to give a residue, which was purified by a silica gel column with 5%-50% ethyl acetate in petroleum ether to afford methyl 3-(cyclopropyl(methyl)amino)-2-(1H-indazol-5-yl)quinoxaline-6-carboxylate as a yellow solid (40 mg).

reactant | methyl 3-(cyclopropyl(methyl)amino)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 300 mg | C1(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F)C | C15H14F3N3O5S
reactant | 1H-indazol-5-ylboronic acid | 1.76 mmol, 430 mg | N1N=CC2=CC(=CC=C12)B(O)O | C7H7BN2O2
reactant | K3PO4 | 1.76 mmol, 370 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.04 mmol, 51 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(cyclopropyl(methyl)amino)-2-(1H-indazol-5-yl)quinoxaline-6-carboxylate | 40 mg | C1(CC1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1C=C2C=NNC2=CC1)C | C21H19N5O2
